US07132539B2
Preparation of 2-[2-[2-ethyl-4-(1-methylcarbamoyl-2-naphthalen-2-yl-ethyl)piperazin-1-yl]-(4-chlorobenzyl)-2-oxo-ethylcarbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester (48):
2-{4-[2-Amino-3-(4-chlorophenyl)-propionyl]-3-ethyl-piperazin-1-yl}-N-methyl-3-naphthalen-2-yl-propioamide HCl, 45, (0.5 g, 0.7 mmol) and Boc-L-proline (0.17 g, 0.78 mmol), 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide (0.19 g, 1.4 mmol) and 1-hydroxybenzotriazole (0.16 g, 0.86 mmol) are dissolved in anhydrous DMF (2.5 mL). The reaction mixture is cooled to 0° C., then N-methylmorpholine (0.6 mL, 5.3 mmol) is added. This reaction mixture is placed in a refrigerator overnight. EtOAc (25 mL) and water (75 mL) are added, and the organic layer is separated. The aqueous layer is extracted with EtOAc (3×30 mL). All organic layers are combined and washed with water (2×50 mL), and dried over Na2SO4. Solvent is removed in vacuo to afford 0.5 g of the desired product.

reactant | 2-{4-[2-Amino-3-(4-chlorophenyl)-propionyl]-3-ethyl-piperazin-1-yl}-N-methyl-3-naphthalen-2-yl-propioamide HCl | Cl.NC(C(=O)N1C(CN(CC1)C(C(=O)NC)CC1=CC2=CC=CC=C2C=C1)CC)CC1=CC=C(C=C1)Cl
reactant | Boc-L-proline | 0.78 mmol, 0.17 g | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide | 1.4 mmol, 0.19 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 0.86 mmol, 0.16 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 5.3 mmol, 0.6 mL | CN1CCOCC1 | C5H11NO
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | water | 75 mL | O | H2O
solvent | EtOAc | 25 mL | CCOC(=O)C | C4H8O2
product | 2-[2-[2-ethyl-4-(1-methylcarbamoyl-2-naphthalen-2-yl-ethyl)piperazin-1-yl]-(4-chlorobenzyl)-2-oxo-ethylcarbamoyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.5 g | C(C)(C)(C)OC(=O)N1C(CCC1)C(N(CC(=O)N1C(CN(CC1)C(CC1=CC2=CC=CC=C2C=C1)C(NC)=O)CC)CC1=CC=C(C=C1)Cl)=O | C39H50ClN5O5
